US05952335
4-Oxo-1,2,3,4-tetrahydro-7H-benzo[c]carbazole-8-carboxylic acid
5.4 g (28.6 mmol) of 2-hydrazinobenzoic acid hydrochloride and 4.7 g (34.3 mmol) of zinc chloride were added to 300 ml of glacial acetic acid. Under stirring at about 85° C., 4.7 g (28.6 mmol) of the compound of Production Example 6 was added thereto over about 5 minutes. Then the obtained mixture was stirred at the same temperature for about 2 hours, brought back to room temperature and the precipitate was recovered by filtration. After concentrating the filtrate, water was added thereto and the precipitate thus formed was recovered by filtration. These precipitates were combined, dried and then dissolved in about 500 ml of dimethylformamide. Under stirring at room temperature, a solution of 6.5 g (28.6 mmol) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone in tetrahydrofuran (20 ml) was added thereto and the obtained mixture was stirred for about 30 minutes. After concentrating, about 50 ml of ethanol was added and the precipitate thus formed was recovered by filtration to thereby give 3.4 g of the title compound.

reactant | 2-hydrazinobenzoic acid hydrochloride | 28.6 mmol, 5.4 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 28.6 mmol, 6.5 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 34.3 mmol, 4.7 g | [Cl-].[Zn+2].[Cl-]
product | 4-Oxo-1,2,3,4-tetrahydro-7H-benzo[c]carbazole-8-carboxylic acid | 3.4 g | O=C1CCCC2=C1C=CC=1NC3=C(C=CC=C3C21)C(=O)O | C17H13NO3
